US08071584B2
3-(2-Methoxycarbonyl-ethylsulfanyl)-3-methyl-butyric acid methyl ester
To a well-stirred mixture of methyl 3-methylbut-2-enoate (50.0 g, 438 mmol), 40% Triton B in MeOH (5 mL) and piperidine (4 mL) were added dropwise at 0° C., then methyl 3-mercaptopropanoate (50 g, 396 mmol) was added. After stirring for 24 h at 60° C., Et2O (500 mL) was added, and the organic phase washed thoroughly with 10% H2SO4 (150 mL), sat. NaHCO3 (150 mL), and brine (200 mL) successively, dried over Na2SO4 and evaporated under vacuum to give the title compound as a colorless oil (90.1 g, 97.23%).

reactant | methyl 3-methylbut-2-enoate | 438 mmol, 50.0 g | CC(=CC(=O)OC)C | C6H10O2
reactant | piperidine | 4 mL | N1CCCCC1 | C5H11N
reactant | methyl 3-mercaptopropanoate | 396 mmol, 50 g | SCCC(=O)OC | C4H8O2S
reactant | Et2O | 500 mL | CCOCC | C4H10O
solvent | MeOH | 5 mL | CO | CH4O
product | 3-(2-Methoxycarbonyl-ethylsulfanyl)-3-methyl-butyric acid methyl ester | 90.1 g, 97.23% | COC(CC(C)(C)SCCC(=O)OC)=O | C10H18O4S
